US08053457B2
(4-Phenoxy-piperidin-1-yl)-acetonitrile
The title compound is synthesized by coupling of 4-Phenoxy-piperidine (commercially available from Alfa Aesar) and bromoacetonitrile analogously to the preparation of Intermediate 149.2 as a colorless oil; ES-MS: M+H=217.2: CtRet=4.80.

reactant | 4-Phenoxy-piperidine | O(C1=CC=CC=C1)C1CCNCC1 | C11H15NO
reactant | bromoacetonitrile | BrCC#N | C2H2BrN
product | (4-Phenoxy-piperidin-1-yl)-acetonitrile | O(C1=CC=CC=C1)C1CCN(CC1)CC#N | C13H16N2O
